US08133909B2
((S)-2-Hydroxy-2-phenyl-N-quinolin-3-yl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 47 (step 2) and example 48 (steps 3 & 4), Quinolin-3-ylamine, (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile & (S)-(+)-O-acetyl-L-mandelic acid were successively coupled and hydrolysed to give the target compound. MS(m/e): 452.1 [M+H]+.

reactant | Quinolin-3-ylamine | N1=CC(=CC2=CC=CC=C12)N | C9H8N2
reactant | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (S)-(+)-O-acetyl-L-mandelic acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)-2-Hydroxy-2-phenyl-N-quinolin-3-yl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | O[C@H](C(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C=1C=NC2=CC=CC=C2C1)C1=CC=CC=C1 | C25H20F3N3O2
